US04710573
To a stirred mixture of cyanogen bromide (15.5 g, 0.146 moles) and potassium carbonate (23.7 g, 0.167 moles) in dimethylsulfoxide (DMSO) [300 ml] was added dropwise a solution of 1-(2-fluorophenyl)-3-(1-methyl-4-piperidinyl)-1H-indazole, the free base of example 36, (42.0 g, 0.137 moles) in dimethylsulfoxide (40 ml). The reaction temperature rose to 36° C. and the mixture was stirred at ambient temperature for 2.5 days. The reaction mixture was then poured into H2O and the product extracted with ether. The ether was dried (MgSO4) and concentrated which left 40 g of a solid. The product was recrystallized 5 times from isopropyl alcohol which yielded 13.6 g (31%) of 4-[1-(2-fluorophenyl)-1H-indazol-3-yl]piperidine-1-carbonitrile, m.p. 119°-121° C.

reactant | cyanogen bromide | 0.146 moles, 15.5 g | N#CBr | CBrN
reactant | potassium carbonate | 0.167 moles, 23.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(2-fluorophenyl)-3-(1-methyl-4-piperidinyl)-1H-indazole | FC1=C(C=CC=C1)N1N=C(C2=CC=CC=C12)C1CCN(CC1)C | C19H20FN3
reactant | H2O | O | H2O
solvent | dimethylsulfoxide | 300 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 40 ml | CS(=O)C | C2H6OS
product | 4-[1-(2-fluorophenyl)-1H-indazol-3-yl]piperidine-1-carbonitrile | 13.6 g, 31% | FC1=C(C=CC=C1)N1N=C(C2=CC=CC=C12)C1CCN(CC1)C#N | C19H17FN4
